### PR TITLE
[Merged by Bors] - feat: add `ofScientific` lemmas for `Complex`/`RCLike`/`Quaternion`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 1]
```diff
@@ -624,6 +624,21 @@ theorem ratCast_re (q : ℚ) : re (q : K) = q := by rw [← ofReal_ratCast, ofRe
...
+    ((ofScientific m s e : ℝ) : K) = ofScientific m s e := by
+  rw [← NNRat.cast_ofScientific]
+
+@[simp, rclike_simps]
+theorem ofScientific_re (m : ℕ) (s : Bool) (e : ℕ) :
+    re (ofScientific m s e : K) = ofScientific m s e := by rw [← ofReal_ofScientific, ofReal_re]
+
+@[simp, rclike_simps, norm_cast]
+theorem ofScientific_im (m : ℕ) (s : Bool) (e : ℕ) :
+    im (ofScientific m s e : K) = 0 := by rw [← ofReal_ofScientific, ofReal_im]
```
Comment (eric-wieser) [inline Mathlib/Analysis/RCLike/Basic.lean:646]: These can be golfed after #39620

File: Mathlib/Algebra/Quaternion.lean [hunk 2]
```diff
@@ -1173,6 +1173,18 @@ instance instRatCast : RatCast ℍ[R] where ratCast q := (q : R)
...
+open OfScientific (ofScientific)
+variable (m : ℕ) (s : Bool) (e : ℕ)
+
+@[norm_cast] lemma coe_ofScientific : ((ofScientific m s e : R) : ℍ[R]) = ofScientific m s e := rfl
+@[simp] lemma re_ofScientific : (ofScientific m s e : ℍ[R]).re = ofScientific m s e := rfl
+@[simp] lemma imI_ofScientific : (ofScientific m s e : ℍ[R]).imI = 0 := rfl
+@[simp] lemma imJ_ofScientific : (ofScientific m s e : ℍ[R]).imJ = 0 := rfl
+@[simp] lemma imK_ofScientific : (ofScientific m s e : ℍ[R]).imK = 0 := rfl
+
+end ofScientific
```
Comment (ocfnash) [inline Mathlib/Algebra/Quaternion.lean:1186]: It's quite hard to think of how we'd ever use these but I guess they're very cheap to add / maintain.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
